### PR TITLE
feat(SetTheory/Cardinal/Cofinality): aleph index of singular cardinal has infinite cofinality

### PR DESCRIPTION
**Pull request by YnirPaz**
Prove `Ordinal.aleph0_le_cof_of_not_isRegular`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Cofinality.lean [hunk 1]
```diff
@@ -1212,6 +1212,12 @@ lemma sup_sequence_lt_omega1 {α} [Countable α] (o : α → Ordinal) (ho : ∀
   rw [Cardinal.isRegular_aleph_one.cof_eq]
   exact lt_of_le_of_lt mk_le_aleph0 aleph0_lt_aleph_one
 
+theorem aleph0_le_cof_of_not_isRegular {o : Ordinal} (h : ¬(aleph o).IsRegular) : ℵ₀ ≤ o.cof := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Cofinality.lean:1215]: Can this take `IsLimit o` as an assumption instead?

Comment (YnirPaz) [reply Mathlib/SetTheory/Cardinal/Cofinality.lean:1215]: I can make that as well, but my use case is working a lot with singular cardinals so I would like to keep this as well. I'll add `¬(aleph o).IsRegular -> o.IsLimit` too. I know `¬κ.IsRegular` is ugly but it's inevitable I'll use it a lot unless we define `IsSingular`.

Comment (YnirPaz) [reply Mathlib/SetTheory/Cardinal/Cofinality.lean:1215]: Oh and `Ordinal.aleph0_le_cof : ℵ₀ ≤ o.cof ↔ o.IsLimit` already exists.
